US04192890
75 cc of thionyl chloride and 30 g of 3-cyano-2-methyl-benzoic acid [prepared by process in C. R. Acad. Sci., Vol. 235(1952), p. 1660] were refluxed for 11/2 hours and after cooling, excess thionyl chloride was removed under reduced pressure. The last traces of thionyl chloride were removed by addition of benzene and distillation under reduced pressure. The residue was purified by rectification under reduced pressure to obtain 27.4 g of 3-cyano-2-methyl-benzoyl chloride in the form of colorless crystals melting at 62° C.

reactant | thionyl chloride | 75 cc | S(=O)(Cl)Cl | Cl2OS
reactant | 3-cyano-2-methyl-benzoic acid | 30 g | C(#N)C=1C(=C(C(=O)O)C=CC1)C | C9H7NO2
product | 3-cyano-2-methyl-benzoyl chloride | 27.4 g | C(#N)C=1C(=C(C(=O)Cl)C=CC1)C | C9H6ClNO
